US08071643B2
Step A. N-(2-methoxy-ethyl)-N-(cyclohex-3-enyl)-carbamic acid tert-butyl ester
Cyclohex-3-enyl-carbamic acid tert-butyl ester (Kampferer, P.; Vasella, A. Helvetica Chimica Acta 2004, 87, 2764-2789) (3 g, 15.2 mmol) and 2-bromoethyl methyl ether (1.43 ml, 15.2 mmol) were treated overnight to the method of Example 7 Step A. After work up and chromatography of the reaction mixture (silica, cyclohexane/ethyl acetate=7/1) the title compound (Rf=0.33, 1.2 g, 31% yield) was obtained as colorless solid.

reactant | Cyclohex-3-enyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1CC=CCC1)=O | C11H19NO2
reactant | 2-bromoethyl methyl ether | 15.2 mmol, 1.43 ml | COCCBr | C3H7BrO
solvent | cyclohexane ethyl acetate | C1CCCCC1.C(C)(=O)OCC
product | N-(2-methoxy-ethyl)-N-(cyclohex-3-enyl)-carbamic acid tert-butyl ester | 1.2 g, 31% yield | C(C)(C)(C)OC(N(C1CC=CCC1)CCOC)=O | C14H25NO3
